US07115645B2
c) 4-Chloro-N-[1-(4-methoxyphenyl)-2-phenyl-1H-benzimidazol-5-yl]benzenesulfonamide
5-Amino-1-(4-methoxyphenyl)-2-phenyl-1H-benzimidazole was reacted with 4-chlorobenzenesulfonic acid chloride according to general operating instructions 13.

reactant | 5-Amino-1-(4-methoxyphenyl)-2-phenyl-1H-benzimidazole | NC1=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=C(C=C2)OC)C=C1 | C20H17N3O
reactant | 4-chlorobenzenesulfonic acid chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | 4-Chloro-N-[1-(4-methoxyphenyl)-2-phenyl-1H-benzimidazol-5-yl]benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)NC1=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=C(C=C2)OC)C=C1 | C26H20ClN3O3S
